US05068325
11k) 2-Amino-6-(3-(5-methyl-2-pyridyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
Prepared from 3-(5-methyl-2-pyridyl)allyl chloride hydrochloride and 3 equivalents of 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine in chloroform. Yield: 22% of theory, Melting point: 172°-175° C. (isopropanol).

reactant | 3-(5-methyl-2-pyridyl)allyl chloride hydrochloride | Cl.CC=1C=CC(=NC1)C=CCCl
reactant | 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | 3 equivalents | NC=1SC=2CCNCCC2N1 | C7H11N3S
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-Amino-6-(3-(5-methyl-2-pyridyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | Yield: 22% | NC=1SC=2CCN(CCC2N1)CC=CC1=NC=C(C=C1)C | C16H20N4S
